US07230023B2
(6) (1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-Cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]-1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-methylbenzoate
According to a similar procedure to that described in Example 1-(12), 4-[(1E,3E)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-1,3-butadienyl]-3-fluorobenzonitrile (976.6 mg, 1.80 mmol) described in Reference example 1, sodium hydride (55% dispersion in mineral oil; 94.2 mg, 1.96 mmol), and 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-methylbenzoyl chloride obtained above were reacted in tetrahydrofuran (10 ml), and the reaction mixture was worked up to afford, after extraction, the title compound as a crude oil. The crude oil was subjected to chromatography on a silica gel (100 g) column (eluent; ethyl acetate:hexane=3:2˜4:1) to afford the title compound (1.0641 g, 69% yield) as a pale yellow amorphous solid.

reactant | 4-[(1E,3E)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-1,3-butadienyl]-3-fluorobenzonitrile | 1.80 mmol, 976.6 mg | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)/C=C/C=C/C1=C(C=C(C#N)C=C1)F)(CN1N=CN=C1)O | C27H25F3N4O3S
reactant | sodium hydride | 1.96 mmol, 94.2 mg | [H-].[Na+]
reactant | 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-methylbenzoyl chloride | C(C=C)OP(=O)(OCC=C)OCC1=C(C(=O)Cl)C=CC=C1C | C15H18ClO5P
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (1R,2R)-2-[[trans-2-[(1E,3E)-4-(4-Cyano-2-fluorophenyl)-1,3-butadienyl]-1,3-dioxan-5-yl]thio]-1-(2,4-difluorophenyl)-1-[(1H-1,2,4-triazol-1-yl)methyl]propyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-3-methylbenzoate | 1.0641 g, 69% yield | C(C=C)OP(=O)(OCC=C)OCC1=C(C(=O)O[C@@]([C@@H](C)S[C@H]2CO[C@@H](OC2)\C=C\C=C\C2=C(C=C(C=C2)C#N)F)(CN2N=CN=C2)C2=C(C=C(C=C2)F)F)C=CC=C1C | C42H42F3N4O8PS
